US07186715B2
4-[2-(1-tert-Butoxycarbonyl-piperidin-4-yloxy)-phenyl]-piperazine-1-carboxylic acid benzyl ester
Diisopropyl azodicarboxylate (0.70 mL, 3.55 mmol) was added dropwise to a stirred solution of 4-(2-hydroxy-phenyl)-piperazine-1-carboxylic acid benzyl ester (0.74 g, 2.4 mmol), 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.48 g, 2.4 mmol) and triphenylphosphine (0.93 g, 3.6 mmol) in THF (25 mL) cooled to 0° C. The resulting solution was warmed to r.t. and stirred for about 16 hours. The solvent was removed in vacuo and the residue purified by silica gel chromatography (20% ethyl acetate in hexanes) to afford the final compound (0.50 g, 43%) as a clear oil.

reactant | Diisopropyl azodicarboxylate | 3.55 mmol, 0.70 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 4-(2-hydroxy-phenyl)-piperazine-1-carboxylic acid benzyl ester | 2.4 mmol, 0.74 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)O | C18H20N2O3
reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 2.4 mmol, 0.48 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 3.6 mmol, 0.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-[2-(1-tert-Butoxycarbonyl-piperidin-4-yloxy)-phenyl]-piperazine-1-carboxylic acid benzyl ester | 0.50 g, 43% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C28H37N3O5
